US08877815B2
To a solution of 1-benzyl 4-tert-butyl 2-(biphenyl-4-ylmethyl)succinate (90 mg, 0.209 mmol) in DCM (1 ml), TFA (0.322 ml, 4.18 mmol) was added. The reaction mixture was allowed to stir for 1 hour, and then concentrated under reduced pressure to give 4-(benzyloxy)-3-(biphenyl-4-ylmethyl)-4-oxobutanoic acid (78 mg); Retention time=1.48 minutes (condition B); MS (m−1)=373.2.

reactant | 1-benzyl 4-tert-butyl 2-(biphenyl-4-ylmethyl)succinate | 0.209 mmol, 90 mg | C1(=CC=C(C=C1)CC(C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H30O4
reactant | TFA | 4.18 mmol, 0.322 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-(benzyloxy)-3-(biphenyl-4-ylmethyl)-4-oxobutanoic acid | 78 mg | C(C1=CC=CC=C1)OC(C(CC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C24H22O4
